US06372777B1
Preparation of 1-(3-Carbamoylphenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester
3-Aminobenzamide (5 mmol, 1.0 g), 2-benzoyl-4-oxo-pentanoic acid ethyl ester (5 mmol, 1.2 g), and tosic acid (0.1 g) were combined in ethanol, then heated under reflux. The resulting precipitate was filtered from the reaction mixture, then washed with ethanol. The tan solid product was used without further purification (m.p. 208.9° C.-210.3° C.).

reactant | 3-Aminobenzamide | 5 mmol, 1.0 g | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
reactant | 2-benzoyl-4-oxo-pentanoic acid ethyl ester | 5 mmol, 1.2 g | C(C)OC(C(CC(C)=O)C(C1=CC=CC=C1)=O)=O | C14H16O4
reactant | tosic acid | 0.1 g | CC1=CC=C(C=C1)S(=O)(=O)O | C7H8O3S
solvent | ethanol | C(C)O | C2H6O
product | 1-(3-Carbamoylphenyl)-5-methyl-2-phenyl-1H-pyrrole-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(=C1)C)C1=CC(=CC=C1)C(N)=O)C1=CC=CC=C1 | C21H20N2O3
